US06462198B1
Diphenylacetyl-carbamic acid 2,2,2-trifluoro-ethyl ester
The title compound, white solid, m.p.=125-127° C. and MS: m/e=337.3 (M+H+) was prepared in accordance with the general method of example 1 from diphenylacetyl isocyanate and 2,2,2 trifluoro-ethanol.

reactant | diphenylacetyl isocyanate | C1(=CC=CC=C1)C(C(=O)N=C=O)C1=CC=CC=C1 | C15H11NO2
reactant | 2,2,2 trifluoro-ethanol | FC(CO)(F)F | C2H3F3O
product | Diphenylacetyl-carbamic acid 2,2,2-trifluoro-ethyl ester | FC(COC(NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O)(F)F | C17H14F3NO3
